US04451462
4 g of 6-dibenzylamino-3,5-dimethylbenzofuran-2(3H)-one are dissolved in 40 ml of dioxane and reduction is carried out at room temperature, under normal pressure, with hydrogen and with 0.4 g of palladium-on-carbon. The mixture is then filtered, and the filtrate is concentrated to dryness by evaporation and recrystallised from methanol. In this manner 6-amino-3,5-dimethylbenzofuran-2(3H)-one having a melting point of 123°-124° C. is obtained.

reactant | 6-dibenzylamino-3,5-dimethylbenzofuran-2(3H)-one | 4 g | C(C1=CC=CC=C1)N(C1=CC2=C(C(C(O2)=O)C)C=C1C)CC1=CC=CC=C1 | C24H23NO2
reactant | hydrogen | [H][H] | H2
solvent | dioxane | 40 ml | O1CCOCC1 | C4H8O2
catalyst | palladium-on-carbon | 0.4 g | [Pd] | Pd
product | 6-amino-3,5-dimethylbenzofuran-2(3H)-one | NC1=CC2=C(C(C(O2)=O)C)C=C1C | C10H11NO2
